data/mechanism_extracts/GreenChem/10.1039_d5gc02920a.json
{"doi": "10.1039_d5gc02920a", "journal": "GreenChem", "is_review": false, "rxn_class_summary": "Electrochemical three-component imino-trifluoromethylation of olefins using Langlois reagent (CF3SO2Na) and benzophenone imines as bis-nucleophilic CF3 and amine sources, providing trifluoromethylated primary amine precursors.", "mechanism_family": ["radical_anodic", "radical_polar_crossover"], "electrochemical_role": "Anodic oxidation of CF3SO2- (Langlois reagent) generates CF3 radical with loss of SO2; the benzyl radical formed after CF3 addition to the olefin is further oxidized at the anode to a benzyl cation that is trapped by the imine nitrogen; cathode reduces protons to H2.", "key_intermediates": [{"name": "trifluoromethyl radical (CF3•)", "smiles": "[CH](F)(F)F", "role": "reactive"}, {"name": "benzyl radical after CF3 addition to styrene", "smiles": null, "role": "transient"}, {"name": "benzyl carbocation (β-CF3 benzyl cation)", "smiles": null, "role": "reactive"}, {"name": "iminium / N-attack adduct leading to C=N product", "smiles": null, "role": "transient"}, {"name": "α-amino C-radical (Path b alternative: benzyl radical adds to C=N of imine)", "smiles": null, "role": "transient"}], "electron_flow": "CF3SO2- is preferentially oxidized at the anode (Eox ~1.39 V vs olefin ~1.63 V; mixture shows first peak at 1.27 V), extruding SO2 to give CF3•, which adds to the styrene to form a benzyl radical; this radical is oxidized at the anode to a benzyl cation captured by the imine nitrogen to form the C–N bond, with cathodic H+ reduction to H2.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Reaction completely inhibited; product 5a N.D."}, {"name": "BHT", "smiles": "CC(C)(C)c1cc(C)cc(C(C)(C)C)c1O", "purpose": "radical_trap", "observation": "Reaction completely inhibited"}, {"name": "Cyclic voltammetry of CF3SO2Na / styrene / imine combinations", "smiles": null, "purpose": "redox_probe", "observation": "Eox(CF3SO2Na)=1.39 V; Eox(olefin)≈1.63 V; mixture shows first oxidation at 1.27 V, indicating CF3SO2- is oxidized preferentially"}, {"name": "Control without electricity", "smiles": null, "purpose": "other", "observation": "No product (N.D.), confirming electrochemical initiation"}, {"name": "Hydrolysis derivatization (PPTS, THF/H2O)", "smiles": null, "purpose": "intermediate_trap", "observation": "Imine 5a hydrolyzed to β-CF3 primary amine tosylate 6 in 82% yield, supporting imine intermediate"}, {"name": "LiAlH4 reduction attempt", "smiles": null, "purpose": "intermediate_trap", "observation": "Failed to reduce C=N to secondary amine (steric hindrance), indirectly supporting imine structure"}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_BHT", "cyclic_voltammetry", "isolation_of_intermediate", "on/off_light_or_current"], "evidence_strength": "medium", "notes": "Authors favor Path a (radical–polar crossover: CF3• addition, anodic oxidation of benzyl radical to cation, then nucleophilic capture by imine). An alternative Path b is proposed but not excluded: the benzyl radical adds directly to the C=N bond of the imine to give an aminyl/α-amino radical, which is then oxidized at the anode with loss of an N–H proton to regenerate the C=N. Single-crystal X-ray (CCDC 2456921) confirms product structure."}
